US05849736
Resolution of 3-(4-cyanophenyl)isoxazolin-5(R,S)-ylacetic Acid by Crystallization
3-(4-Cyanophenyl)isoxazolin-5(S)-ylacetic acid (127 g, 0.55 moles) and (+)-cinchonidine (180.37 g, 0.55 mol) were added to acetone (2.0 L) and stirred at ambien temperature for at least 1.5 hrs. The resulting precipitate (169.21 g) was collected by filtration. The precipitate was dissolved in hot acetone (4.0 L) while stirring. After complete dissolution, the solution was allowed to stand overnight. The crystals formed were collected by filtration and recrystallized with acetone again to yield the 3-(4-cyanophenyl)isoxazolin-5(S)-ylacetic acid/(+)-cinchonidine salt in 33% overall yield and >99% diastereomeric excess. The 3-(4-cyanophenyl)isoxazolin-5(S)-ylacetic acid was liberated from its cinchonidine salt complex by suspending the salt in ethereal HCL (1N), filtering the solid after equilibration and evaporating the ether solution to provide the solid 3-(4-cyanophenyl)isoxazolin-5(S)-ylacetic acid. The R-isomer could be obtained from the mother liquor. Other chiral bases used include ephedrine, 2-phenylglycinol, 2-amino-3-methoxy-1-propanol, quinidine and pseudoephedrine.

reactant | ephedrine | C[C@@H]([C@@H](C=1C=CC=CC1)O)NC | C10H15NO
reactant | 2-phenylglycinol | C1(=CC=CC=C1)C(N)CO | C8H11NO
reactant | 2-amino-3-methoxy-1-propanol | NC(CO)COC | C4H11NO2
reactant | quinidine | COC=1C=CC2=C(C1)C(=CC=N2)[C@@H]([C@H]3CC4CCN3C[C@@H]4C=C)O | C20H24N2O2
reactant | pseudoephedrine | C[C@@H]([C@H](C=1C=CC=CC1)O)NC | C10H15NO
product | 3-(4-cyanophenyl)isoxazolin-5(R,S)-ylacetic Acid | C(#N)C1=CC=C(C=C1)C1=NOC(C1)CC(=O)O | C12H10N2O3
